US07666866B2
A. 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid
Using methyl 4-methoxysalicylate and 1-Boc-piperidin-4-ol, the acid is obtained using procedures similar to those described at Example 1-G and 1-H.

reactant | methyl 4-methoxysalicylate | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | 1-Boc-piperidin-4-ol | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
product | 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)OC | C18H25NO6
